US06060620
Comparative Example 1. (Reaction between Styrene and Dimethylethoxysilane) A glass tube was filled with 312 mg of styrene and 312 mg of dimethylethoxysilane. The contents were combined with 1 μL of a toluene solution of a complex of divinylsiloxane and 0-valence platinum (platinum content: 0.4 Wt. %). The tube was sealed with Teflon tape and was heated for 30 minutes in an oil bath at 41° C. After cooling, the product was subjected to GC analysis. The analyses confirmed that the conversion of styrene was 36% and that phenethyldimethylethoxysilane was produced at a yield of 27%. The yield of (α-methylbenzyl)dimethylethoxysilane was 8.5%.

reactant | Styrene | C=CC1=CC=CC=C1 | C8H8
reactant | Dimethylethoxysilane | C[SiH](OCC)C | C4H12OSi
reactant | styrene | 312 mg | C=CC1=CC=CC=C1 | C8H8
reactant | dimethylethoxysilane | 312 mg | C[SiH](OCC)C | C4H12OSi
catalyst | platinum | [Pt] | Pt
solvent | toluene | 1 μL | C1(=CC=CC=C1)C | C7H8
product | phenethyldimethylethoxysilane | yield of 27% | C(CC1=CC=CC=C1)[Si](OCC)(C)C | C12H20OSi
